US06949573B2
4-[(2-Chloro-5-fluoro-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (4.0 g, 11.18 mmol) (see Preparation 27), 4-fluorophenol (1.378 g, 12.3 mmol) and caesium carbonate (7.29 g, 33.54 mmol) were stirred in N,N-dimethylformamide (40 ml) at 55° C. under an atmosphere of nitrogen for 18 hours. The reaction mixture was then partitioned between ethyl acetate (50 ml) and water (30 ml) and the organic layer separated. The organic layer was then washed with a saturated aqueous solution of sodium chloride (40 ml), dried over anhydrous magnesium sulphate and the solvent removed in vacuo. The residue was purified by flash column chromatography on silica gel eluting with dichloromethane. The product was finally triturated with diethylether (25 ml) giving 4-{[5-fluoro-2-(4-fluorophenoxy)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (2.59 g) as a white solid.

reactant | 4-[(2-Chloro-5-fluoro-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 11.18 mmol, 4.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C(=NC=C(C1)F)Cl | C16H21ClFN3O3
reactant | 4-fluorophenol | 12.3 mmol, 1.378 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | caesium carbonate | 33.54 mmol, 7.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-{[5-fluoro-2-(4-fluorophenoxy)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 2.59 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C(=NC=C(C1)F)OC1=CC=C(C=C1)F | C22H25F2N3O4
